US05120841
(a) Production of 1-(Cyclohexyloxycarbonyloxy)Ethyl 7β-[2-(2-Aminothiazol-4-Yl)Acetamido]-3-Acetoacetoxymethylceph-3-Em-4-Carboxylate
In 30 ml of N,N-dimethylformamide is dissolved 4.76 g of sodium 7β-[2-(2-aminothiazol-4-yl]acetamido]-3-acetoacetoxymethylceph-3-em-4-carboxylate and the solution is cooled to -5° C. With stirring, to the solution is added dropwise 5.0 g of 1-iodoethyl cyclohexyl carbonate, followed by stirring for further 5 minutes. The reaction mixture is poured into a mixture of 300 ml of ethyl acetate and 200 ml of ice water and the organic layer is separated. The aqueous layer is extracted with 200 ml of ethyl acetate. The organic layers are combined and washed with 150 ml each portion of ice water (three times) and saturated aqueous sodium chloride (three times) and then dried over anhydrous magnesium sulfate. The solution is then distilled off under reduced pressure and isopropyl ether is added to the residue. The resultant white powder is collected by filtration, washed with isopropyl ether and dried to obtain 3.3 g of the title compound.

reactant | sodium 7β-[2-(2-aminothiazol-4-yl]acetamido]-3-acetoacetoxymethylceph-3-em-4-carboxylate | 4.76 g | NC=1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(=O)C)=O)C(=O)[O-])C1=O.[Na+]
reactant | 1-iodoethyl cyclohexyl carbonate | 5.0 g | C(OC(C)I)(OC1CCCCC1)=O | C9H15IO3
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(Cyclohexyloxycarbonyloxy)Ethyl 7β-[2-(2-Aminothiazol-4-Yl)Acetamido]-3-Acetoacetoxymethylceph-3-Em-4-Carboxylate | 3.3 g | NC=1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(=O)C)=O)C(=O)OC(C)OC(=O)OC2CCCCC2)C1=O | C26H32N4O10S2
